US06346621B1
Separately, a 100-mL three-necked flask equipped with a thermometer, a dropping funnel, a three-way stopcock, and a magnetic stirrer was purged with nitrogen. Thereto, were added 10.2 g (52.2 mmol) of 2,6-dichlorobenzyl chloride (produced by Tokyo Kasei K.K.), and 25 mL of tetrahydrofuran. To this solution, the above obtained solution of the lithium salt compound was added dropwise by keeping the temperature of the reaction system in the range from 15 to 20° C. The reaction mixture was aged at room temperature for 2 hours, and the cooled with ice. Thereto 3N hydrochloric acid solution was added to stop the reaction. The mixture was extracted with ether. The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated. To the flask containing the concentration residue, 10 g of Molecular Sieve 4A was added and the flask was purged with nitrogen. The concentration residue was dissolved by addition of 10 mL of toluene, and was cooled with ice. Thereto, 3.45 g (57.4 mmol) of N,N-dimethylhydrazine was added. The mixture was stirred at room temperature for 3 hours, and filtered. The filtrate was concentrated under a reduced pressure. The obtained concentration residue was purified by silica gel chromatography (Solvent: hexane, ratio of hexane:ethyl acetate=20:1) to obtain 7.42 g (30.3 mmol) of 3-(2,6-dichlorophenyl)propionaldehyde N,N-dimethylhydrazone. (Yield: 58% based on 2,6-dichlorobenzyl chloride).

reactant | 2,6-dichlorobenzyl chloride | 52.2 mmol, 10.2 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
reactant | lithium | [Li] | Li
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | N,N-dimethylhydrazine | 57.4 mmol, 3.45 g | CN(N)C | C2H8N2
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-(2,6-dichlorophenyl)propionaldehyde N,N-dimethylhydrazone | 30.3 mmol, 7.42 g, Yield: 58% | CN(N=CCCC1=C(C=CC=C1Cl)Cl)C | C11H14Cl2N2
